US04917826
N-Diphenylmethyl-3-methoxyestra-1,3,5(10)-trien-17β-amine
A solution of aminodiphenylmethane (5.50 g) in methanol (100 ml) was stirred at room temperature. Added sequentially to this solution were glacial acetic acid (1.8 ml, 1.8 g), estrone methyl ether (8.52 g), sodium cyanoborohydride (2.3 g), and THF (80 ml). The mixture was stirred at room temperature for 8 days. Additional NaB(CN)H3 (1.5 g), amine (5.5 g), and acetic acid (1.8 g) were added after four days of the reaction time. Excess solvent was removed under reduced pressure and water (300 ml) was added to the solid residue. The mixture was made alkaline with 50% aqueous NaOH and was extracted with ether (3X). The extracts were dried (MgSO4), filtered, and concentrated, giving an oily residue. This crude product was chromatographed (500 g silica gel, 5% ethyl acetate-hexane, 350 ml fractions) on a gravity column. The desired product was eluted in fractions 4-7, and after recrystallization from methanol gave a first crop of crystals, mp 127°- 129° C., and a second crop. A sample was recrystallized again from methanol and gave an analytical sample of the title compound, mp 127°-129° C. (PLA2, diabetes)

reactant | aminodiphenylmethane | 5.50 g | NC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13N
reactant | estrone methyl ether | 8.52 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CCC4=C3C=CC(=C4)OC | C19H24O2
reactant | sodium cyanoborohydride | 2.3 g | C(#N)[BH3-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | acetic acid | 1.8 g | C(C)(=O)O | C2H4O2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 1.8 ml, 1.8 g | C(C)(=O)O | C2H4O2
product | N-Diphenylmethyl-3-methoxyestra-1,3,5(10)-trien-17β-amine | C1(=CC=CC=C1)C(N[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)C2=CC=CC=C2 | C32H37NO
